Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chief Complaint: Dyspnea on exertion, fatigue

 
Major Surgical or Invasive Procedure:
cardiac catheterization

 
History of Present Illness:
___ year old female who was noted to have a systolic ejection
murmur on exam several years ago. A TTE in ___ showed
mild to moderate aortic stenosis. Her TTE in ___ showed
moderate to severe aortic stenosis with a mean gradient of
38mmHg. She now notes shortness of breath and fatigue with
climbing stairs and sometimes while walking on flat surfaces. 
She
states that her DOE has slightly worsened over the past several
months. She denies any CP, SOB at rest, PND, or pedal edema. She
sleeps using two pillows. She
underwent a stress echocardiogram in ___ which showed severe
aortic
stenosis and exercise limitation due to shortness of breath. The
EKG was negative for ischemia. Given the severity of her 
disease,
she has been referred for surgical evaluation.  She is now
admitted post LHC for surgery in the AM. She states she would
like a mechanical valve. She states that she was in her usual
state of health prior to admission. 
 
Past Medical History:
Aortic stenosis
Type 2 diabetes
Anemia
Depression
Arthritis
Hypertension
Morbid obesity
Hyperlipidemia
COPD
Sleep apnea, does not use c-pap
Past Surgical History:  
Breast Biopsyx2 ___ years ago
Cataract surgery
Cholecystectomy, open
Knee replacement, left
Removal of malignant lesion
Open reduction of femur fracture
Tonsillectomy
Trigger finger release
Skin cancer removal x 3
 
Social History:
___
Family History:
Father deceased ___ COPD
Mother deceased ___, CVA
2 Sisters deceased from cancer
1 brother deceased from MI @ 59

 
Physical Exam:
Vital Signs
BP: 129/82 Heart Rate: 66. O2 Saturation%: 97 (room
air ). Resp. Rate: 16. Pain Score: 0.  Temp: 97.5

Height: 5'0"  Weight: 202lb

General: Well-developed female in no acute distress
Skin: Warm [X] Dry [X] intact [X]
HEENT: NCAT [X] PERRLA [X] EOMI [X]
Neck: Supple [X] Full ROM [X] JVD +/-  
Chest: Lungs clear bilaterally [X]  
Heart: RRR [X] Irregular [] Murmur [X] grade ___ systolic 
Abdomen: Soft [X] non-distended [X] non-tender [X] bowel sounds 
+
[]
Extremities: Warm [X], well-perfused [X] Edema [] _____  
Varicosities: None [X]  
Neuro: Grossly intact [X]  
Pulses:  
 Femoral Right: 2+  Left: 2+
 DP      Right: 2+  Left: 2+
 ___      Right: 2+  Left: 2+
 Radial  Right: 2+  Left: 2+

Carotid Bruit - Right: -radiating murmur   Left: -murmur
 
Pertinent Results:
___ 05:00PM   PLT COUNT-92*
___ 05:00PM   WBC-6.2 RBC-3.91 HGB-11.4 HCT-35.5 MCV-91 
MCH-29.2 MCHC-32.1 RDW-14.0 RDWSD-46.4*
___ 05:00PM   GLUCOSE-148* UREA N-16 CREAT-0.7 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-25 ANION GAP-14
___ 05:00PM   %HbA1c-6.3* eAG-134*
___ 05:00PM   ALT(SGPT)-32 AST(SGOT)-29 LD(LDH)-195 ALK 
PHOS-78 TOT BILI-0.4
 
Brief Hospital Course:
Ms. ___ was admitted for an aortic valve replacement but her 
surgery was cancelled for thrombocytopenia. She was seen in 
consultation by hematology in-house. She was discharged to home 
on ___ with a plan for her to see her hematologist at home 
for a clearance letter for cardiac surgery. Once she obtains 
this letter and her platelet level is above 100 thousand, she is 
to call Dr. ___ office to make an appointment at 
___.
 
Medications on Admission:
albuterol 2 puffs q4-6 hrs, alendronate 70mg weekly, bupropion 
SR 100mg daily, citalopram 60mg daily, duloxetine 30mg TID, 
econazole 1% cream BID, gabapentin 300mg TID, vicodin PRN, 
linagliptin 5mg daily, victoza 0.6mg daily, Ativan 0.5mg PRN 
anxiety, metformin 1000mg BID, singulair 10mg HS, endocet 
___ PRN, pantoprazole 40mg daily, quinapril 10mg daily, 
simvastatin 40mg daily, Detrol LA 4mg daily, trazadone 50-100mg 
HS
 
Discharge Medications:
1.  Nystatin Cream 1 Appl TP BID  
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob  
3.  BuPROPion (Sustained Release) 100 mg PO BID  
4.  DULoxetine 90 mg PO DAILY  
5.  etodolac 500 mg oral BID  
6.  Gabapentin 300 mg PO TID  
7.  LORazepam 0.5 mg PO Q8H:PRN anxiety/insomnia  
8.  MetFORMIN (Glucophage) 1000 mg PO BID  
9.  Montelukast 10 mg PO QHS  
10.  Pantoprazole 40 mg PO Q24H  
11.  Simvastatin 40 mg PO QPM  
12.  TraZODone 50-100 mg PO QHS:PRN insomnia  
13.  Victoza 2-Pak (liraglutide) 0.6 mg/0.1 mL (18 mg/3 mL) 
subcutaneous DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Aortic stenosis
Thrombocytopenia 

 
Discharge Condition:
alert and oriented x3
ambulatory

 
Discharge Instructions:
Please follow up with your primary care doctor and cardiologist 
if your symptoms worsen. 
In order to be cleared for surgery, you must follow-up with your 
outpatient
hematologist Dr. ___ at ___ for platelet 
screening. Once your blood work has been completed, and Dr. 
___ your platelet level >1000, call Dr. ___ 
___ (___) to schedule a clinical visit.   
 
 
Followup Instructions:
___